US05594159
(CF3)2CHCO2H+(CF3)2CHCF2OCH3 +H2O→CF3CH2CF3 +CF3CH=CF2
(CF3)2CHCF2OCH3 (ether A, 7.1 g) and a solution of (CF3)2CHCO2H (0.6 g) in water (10 mL) are independently and continuously fed to the reactor over 5 hours. The reactor is preheated to 450° C. and maintained at this temperature throughout the run. The reactor pressure is maintained at about atmospheric pressure. The reactor effluent is scrubbed to remove HF. The product includes CF3CH=CF2 (HFC-1225zc) and HFC-236fa.

reactant | (CF3)2CHCF2OCH3 | 7.1 g | C(C(F)(F)F)(C(F)(F)F)C(F)(F)OC | C5H4F8O
reactant | (CF3)2CHCO2H | 0.6 g | C(C(F)(F)F)(C(F)(F)F)C(=O)O | C4H2F6O2
solvent | water | 10 mL | O | H2O
product | (CF3)2CHCO2H (CF3)2CHCF2OCH3 H2O | C(C(F)(F)F)(C(F)(F)F)C(=O)O.C(C(F)(F)F)(C(F)(F)F)C(F)(F)OC.O | InChI=1S/C5H4F8O.C4H2F6O2.H2O/c1-14-5(12,13)2(3(6,7)8)4(9,10)11;5-3(6,7)1(2(11)12)4(8,9)10;/h2H,1H3;1H,(H,11,12);1H2
